US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.65 mmol) in N,N-dimethylacetamide (2.0 mL) was added 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (185 mg, 1.16 mmol). After stirring at room temperature for 1 hr, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran, washed with saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/2→4-ethyl acetate) and precipitated from hexane/ethyl acetate to give the title compound (70 mg, 25%) as a white powder.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.65 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 1.16 mmol, 185 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 2.0 mL | CN(C(C)=O)C | C4H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 70 mg, 25% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=CC(=NN2C)C)C1 | C22H21N7O3
